US05405843
Following the same procedure as in Example 1-(a), reaction and treatment were carried out using 1.0 g of -hyroxyquinoline, 2.1 g of 1,3-dibromopropane and 0.78 g of t-BuOK as a base, in order to obtain 0.65 g of 5-(3-bromopropoxy)quinoline.

reactant | hyroxyquinoline | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
reactant | 1,3-dibromopropane | 2.1 g | BrCCCBr | C3H6Br2
reactant | t-BuOK | 0.78 g | CC(C)(C)[O-].[K+]
product | 5-(3-bromopropoxy)quinoline | 0.65 g | BrCCCOC1=C2C=CC=NC2=CC=C1 | C12H12BrNO
